.TITLE Controller Board
U1 net_1 net_6 0 nc_0 0 nc_1 nc_2 nc_3 0 nc_4 0 nc_5 0 nc_6 SN74HC04
U2 net_5 net_4 0 nc_7 0 nc_8 nc_9 nc_10 0 nc_11 0 nc_12 0 nc_13 CD4069
U3 net_5 net_6 net_0 nc_14 0 0 vcc nc_15 0 0 nc_16 0 0 nc_17 nc_18 CD4043
D1 net_5 0 D_LED
D2 net_4 0 D_LED
V_Rail_0 vcc 0 DC 5.0
.LIB spice-models.lib
.END
